US08071588B2
[(3-Bromo-4-fluorophenyl)methyl]methylamine
To the solution of 1,1-dimethylethyl[(3-bromo-4-fluorophenyl)methyl]carbamate (0.755 g, 2.48 mmol) in THF (1 mL) was added BH3.THF (12.5 mL, 1.0 M in THF). The mixture was heated in a microwave machine at about 80° C. for about 30 mins twice. The reaction was then quenched with HCl (10 mL, 1 N) slowly, stirred for 2 h at room temperature, basified with NaHCO3 to pH ˜9, and extracted with EtOAc (50+20 mL). The organic layer was washed with brine, dried over Na2SO4, filtered, concentrated to afford 0.52 g (96%) of the title compound. LC-MS m/z 218 (M+H)+.

reactant | 1,1-dimethylethyl[(3-bromo-4-fluorophenyl)methyl]carbamate | 2.48 mmol, 0.755 g | CC(C)(C)N(C([O-])=O)CC1=CC(=C(C=C1)F)Br
reactant | BH3.THF | 1.0 M, 12.5 mL | B.C1CCOC1
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | [(3-Bromo-4-fluorophenyl)methyl]methylamine | 0.52 g, 96% | BrC=1C=C(C=CC1F)CNC | C8H9BrFN
